US06348474B1
3-Ethyl-6-(methoxycarbonyl)-1H-indazole
To a solution of methyl 3-amino-4-propylbenzoate (5.07 g) in acetic acid (150 ml) was dropwise added a solution of sodium nitrite (2.07 g) in water (5 ml) for 5 min. After stirring for 20 min, the reaction mixture was concentrated, and then toluene and a saturated aqueous sodium hydrogencarbonate solution were added to the residue. The separated toluene layer was dried over sodium sulfate and concentrated. The residue was allowed to stand and partially solidified. The solid was washed with hexane and dried to give the object compound (2.44 g) as a brown solid.

reactant | methyl 3-amino-4-propylbenzoate | 5.07 g | NC=1C=C(C(=O)OC)C=CC1CCC | C11H15NO2
reactant | sodium nitrite | 2.07 g | N(=O)[O-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 3-Ethyl-6-(methoxycarbonyl)-1H-indazole | 2.44 g | C(C)C1=NNC2=CC(=CC=C12)C(=O)OC | C11H12N2O2
